US07034015B2
N-(2-{[3-Chloro-4-(2-methylbenzoyl)phenyl]amino}phenyl)-succinamic acid 2-(2-methoxy-ethoxy)ethyl ester (Compound 191)
A solution of diethylazodicarboxylate (40% in toluene, 229 μL, 0.5 mmol) was slowly added to a mixture of N-(2-{[3-chloro-4-(2-methylbenzoyl)phenyl]amino}phenyl)-succinamic acid (200 mg, 0.46 mmol) (disclosed in WO 01/05746), triphenylphosphine (132 mg, 0.50 mmol), and 2-(2-methoxyethoxy)ethanol (55 mg, 0.46 mmol) in dry toluene (2.5 ml). The reaction mixture was stirred for 48 h and then poured into a mixture of water and EtOAc. The aqueous phase was extracted with more EtOAc (×2). The combined organic phases were washed with brine, dried (MgSO4), filtered and concentrated in vacuo. The crude product was purified by flash chromatography using EtOAc as the eluent to afford the title compound as a yellow oil.

reactant | diethylazodicarboxylate | 0.5 mmol, 229 μL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | N-(2-{[3-chloro-4-(2-methylbenzoyl)phenyl]amino}phenyl)-succinamic acid | 0.46 mmol, 200 mg | ClC=1C=C(C=CC1C(C1=C(C=CC=C1)C)=O)NC1=C(C=CC=C1)NC(CCC(=O)O)=O | C24H21ClN2O4
reactant | triphenylphosphine | 0.50 mmol, 132 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-(2-methoxyethoxy)ethanol | 0.46 mmol, 55 mg | COCCOCCO | C5H12O3
solvent | toluene | 2.5 ml | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | N-(2-{[3-Chloro-4-(2-methylbenzoyl)phenyl]amino}phenyl)-succinamic acid 2-(2-methoxy-ethoxy)ethyl ester | COCCOCCOC(CCC(=O)NC1=C(C=CC=C1)NC1=CC(=C(C=C1)C(C1=C(C=CC=C1)C)=O)Cl)=O | C29H31ClN2O6
